US04585796
30 g of 5-(3-aminopropyl)-2-thiophenecarboxamide and 20.2 ml of (R)-phenylethylene oxide were stirred at 95° for 24 hours in 400 ml of dimethyl sulphoxide. After cooling, the mixture was diluted with 1.3 l of water and extracted three times with about 600 ml of methylene chloride. The methylene chloride solutions were washed twice with water, dried over sodium sulphate and evaporated in vacuo. Chromatography of the residue on silica gel with ether/methanol gave 21 g of 5-[3-[bis[(R)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide; UV: ε276 =9900; [α]D =-69° (c=0.1% in dioxan).

reactant | 5-(3-aminopropyl)-2-thiophenecarboxamide | 30 g | NCCCC1=CC=C(S1)C(=O)N | C8H12N2OS
reactant | (R)-phenylethylene oxide | 20.2 ml | C1(=CC=CC=C1)[C@@H]1CO1 | C8H8O
solvent | dimethyl sulphoxide | 400 ml | CS(=O)C | C2H6OS
solvent | water | 1.3 l | O | H2O
product | 5-[3-[bis[(R)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide | 21 g | O[C@@H](CN(CCCC1=CC=C(S1)C(=O)N)C[C@@H](C1=CC=CC=C1)O)C1=CC=CC=C1 | C24H28N2O3S
